US04478833
2-(2-Hydroxypropyl-amino)-4-(1-oxido-thiomorpholino)-8-(3-picolyl-amino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-4-(1-oxido-thiomorpholino)-8-(3-picolyl-amino)pyrimido[5,4-d]pyrimidine (melting point: 227°-229° C.) and 1-amino-2-propanol.

reactant | 2-chloro-4-(1-oxido-thiomorpholino)-8-(3-picolyl-amino)pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NCC=2C=NC=CC2)N2CCS(CC2)=O | C16H16ClN7OS
reactant | 1-amino-2-propanol | NCC(C)O | C3H9NO
product | 2-(2-Hydroxypropyl-amino)-4-(1-oxido-thiomorpholino)-8-(3-picolyl-amino)-pyrimido[5,4-d]pyrimidine | OC(CNC=1N=C(C2=C(N1)C(=NC=N2)NCC=2C=NC=CC2)N2CCS(CC2)=O)C | C19H24N8O2S
